US07687502B2
[6-(3-Chloropyridin-2-yloxy)-quinazolin-4-yl]-3-methyl-[1,2,4]thiadiazol-5-yl-amine
The compound of Example 86 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2,3-dichloropyridine, 5-amino-3-methyl-[1,2,4]thiadiazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 2,3-dichloropyridine | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | 5-amino-3-methyl-[1,2,4]thiadiazole | NC1=NC(=NS1)C | C3H5N3S
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [6-(3-Chloropyridin-2-yloxy)-quinazolin-4-yl]-3-methyl-[1,2,4]thiadiazol-5-yl-amine | ClC=1C(=NC=CC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NC(=NS1)C | C16H11ClN6OS
